US05439925
(a) Methyl 4-(α-methylene-5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthylacetamido)benzoate
In a manner similar to Example 4(c), by reaction of 4.6 g (18 mmol) of α-methylene-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid with 2.7 g (18 mmol) of methyl 4-aminobenzoate, 2.4 g (34%) of the expected ester are obtained in the form of a colorless oil.

reactant | α-methylene-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetic acid | 18 mmol, 4.6 g | C=C(C(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C17H22O2
reactant | methyl 4-aminobenzoate | 18 mmol, 2.7 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
product | Methyl 4-(α-methylene-5,6,7,8-tetrahydro -5,5,8,8-tetramethyl-2-naphthylacetamido)benzoate | C=C(C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29NO3
